US07750155B2
To a mixture of crude (2E)-3-[5-({(3R)-1-[3-phenylpropyl]- 3-piperidinyl}amino)-2-pyrazinyl] acrylic acid (345 mg), O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (166 mg), and HOBT in dichloromethane (8.6 mL) was added WSCD (271 mg), which was stirred at room temperature for 17 hours. Water was added to the resultant. The organic layer was extracted and dried over Na2SO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel [chromatorexNH, 5 g, hexane:AcOEt=25:75) to give (2E)-3-[5-({(3R)-1-[3-phenylpropyl]-3-piperidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (277 mg) as a pale yellow solid.

reactant | (2E)-3-[5-({(3R)-1-[3-phenylpropyl]- 3-piperidinyl}amino)-2-pyrazinyl] acrylic acid | 345 mg | C1(=CC=CC=C1)CCCN1C[C@@H](CCC1)NC=1N=CC(=NC1)/C=C/C(=O)O | C21H26N4O2
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 166 mg | O1C(CCCC1)ON | C5H11NO2
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Water | O | H2O
solvent | dichloromethane | 8.6 mL | ClCCl | CH2Cl2
product | (2E)-3-[5-({(3R)-1-[3-phenylpropyl]-3-piperidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 277 mg | C1(=CC=CC=C1)CCCN1C[C@@H](CCC1)NC=1N=CC(=NC1)/C=C/C(=O)NOC1OCCCC1 | C26H35N5O3
